US08563565B2
Synthesis of 7-(2-methoxy-4,6-dimethylpyridin-3-yl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
5-(2,4-dimethoxybenzyl)-1-(tetrahydro-2H-pyran-4-yl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one (100 mg) obtained in Preparation Example 1(5) was dissolved in 1,4-dioxane (4 mL). 3-chloro-2-methoxy-4,6-dimethylpyridine obtained in Preparation Example 25 (472 mg), [(t-Bu)2P(OH)]2PdCl2 (4.6 mg), cesium carbonate (119 mg) and water (1 mL) were added to the solution, and the mixture was reacted using a microwave reactor at 130° C. for four hours. The reaction mixture was extracted with DCM. The organic layer was washed with brine and dried over sodium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 50% to 100%) to give a 1:1 mixture of 5-(2,4-dimethoxybenzyl)-7-(2-methoxy-4,6-dimethylpyridin-3-yl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one and 5-(2,4-dimethoxybenzyl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one (76 mg). The mixture (76 mg) was dissolved in TFA (1.5 mL), and the mixture was stirred at 65° C. for three hours. The reaction mixture was concentrated under reduced pressure. DCM and a saturated aqueous sodium bicarbonate solution were added to the resulting residue, followed by extraction with DCM. The organic layer was washed with brine and dried over sodium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 50% to 100%) to give the title compound (22 mg).

reactant | 5-(2,4-dimethoxybenzyl)-1-(tetrahydro-2H-pyran-4-yl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 100 mg | COC1=C(CN2C(C3=C(C=4C=CC(=CC24)B2OC(C(O2)(C)C)(C)C)N(N=C3)C3CCOCC3)=O)C=CC(=C1)OC | C30H36BN3O6
reactant | 3-chloro-2-methoxy-4,6-dimethylpyridine | ClC=1C(=NC(=CC1C)C)OC | C8H10ClNO
reactant | cesium carbonate | 119 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-(2,4-dimethoxybenzyl)-7-(2-methoxy-4,6-dimethylpyridin-3-yl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | COC1=C(CN2C(C3=C(C=4C=CC(=CC24)C=2C(=NC(=CC2C)C)OC)N(N=C3)C3CCOCC3)=O)C=CC(=C1)OC | C32H34N4O5
reactant | 5-(2,4-dimethoxybenzyl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 76 mg | COC1=C(CN2C(C3=C(C=4C=CC=CC24)N(N=C3)C3CCOCC3)=O)C=CC(=C1)OC | C24H25N3O4
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 1 mL | O | H2O
product | 7-(2-methoxy-4,6-dimethylpyridin-3-yl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 22 mg | COC1=NC(=CC(=C1C=1C=CC=2C3=C(C(NC2C1)=O)C=NN3C3CCOCC3)C)C | C23H24N4O3
